US08610345B2
Next, a mixed solution of 4.4 g of 1-methylpyrene, 2 g of t-butylchloride and 33 ml of dichloromethane was cooled to 0° C. under a nitrogen gas stream and then 2.7 g of aluminum chloride was added. This mixed solution was stirred at room temperature for 3 hours and 30 ml of water was poured into the solution, followed by extraction with 30 ml of dichloromethane. The organic layer was washed twice with 20 ml of water, dried over magnesium sulfate and then evaporated. The concentrate was purified by silica gel column chromatography and then vacuum-dried to obtain 3 g of 7-t-butyl-1-methylpyrene.

reactant | 1-methylpyrene | 4.4 g | CC1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C17H12
reactant | t-butylchloride | 2 g | C(C)(C)(C)Cl | C4H9Cl
reactant | dichloromethane | 33 ml | ClCCl | CH2Cl2
reactant | aluminum chloride | 2.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | water | 30 ml | O | H2O
product | 7-t-butyl-1-methylpyrene | 3 g | C(C)(C)(C)C=1C=C2C=CC3=CC=C(C4=CC=C(C1)C2=C43)C | C21H20
